US06777406B2
(±)-trans-N-(3,4-dichlorophenyl)-5,6,8,8a,9,10,11,11a-octahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinolin-2-amine
Using 3,4-dichlorobromobenzene and following the procedures described in EXAMPLE 72, (±)-trans tert-butyl 2-amino-5,6,8a,9,11,11a-hexahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinoline-10(8H)-carboxylate was converted into the title compound of EXAMPLE 73 as a tan solid. 1H NMR (300 MHz, CDCl3) δ 1.25 (br s, 1H), 1.95 (m, 2H), 2.00 (m, 1H), 2.70 (m, 4H), 2.90 (t, 1H, J=9.7 Hz), 3.10-3.50 (m, 5H), 3.54 (t, 1H, J=9.7 Hz), 5.34 (br s, 1H), 6.42 (s, 1H), 6.51 (m, 1H), 6.59 (s, 1H), 6.83 (d, 1H, J=2.6 Hz), 7.16 (d, 1H, J=8.7 Hz). LRMS (ES)+: 374 (M+H)+.

reactant | 3,4-dichlorobromobenzene | ClC=1C=C(C=CC1Cl)Br | C6H3BrCl2
reactant | (±)-trans tert-butyl 2-amino-5,6,8a,9,11,11a-hexahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinoline-10(8H)-carboxylate | NC=1C=C2[C@H]3[C@H](CN4C2=C(C1)CCC4)CN(C3)C(=O)OC(C)(C)C | C19H27N3O2
product | (±)-trans-N-(3,4-dichlorophenyl)-5,6,8,8a,9,10,11,11a-octahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinolin-2-amine | ClC=1C=C(C=CC1Cl)NC=1C=C2[C@H]3[C@H](CN4C2=C(C1)CCC4)CNC3 | C20H21Cl2N3
